US05106861
Step A: Trans-N-[(2R)-2-phenylpropanoyl]-3-amino-1,2,3,4-tetrahydro-2-naphthalenol, diastereoisomer A and diastereoisomer B
Under argon to a solution of R-(-)-2-phenylpropionic acid (505 mg) in methylene chloride (10 ml) at 0° C. was added hydroxybenzotriazole, hydrate (530 mg) and dicyclohexylcarbodiimide (718 mg). The mixture was stirred at 0° C. for 10 minutes before addition of racemic trans-3-amino-1,2,3,4-tetrahydro-2-naphthalenol, hydrochloride (723 mg) and N-methylmorpholin (438 mg) in methylene chloride (5 ml). Stirring was maintained at 0° C. for 3 hours and at room temperature overnight. The reaction mixture was diluted with ethyl acetate and filtered. Evaporation of solvent gave the crude mixture of diastereoisomer A and diastereoisomer B. The diastereoisomer separation was achieved by chromatography on silica gel [160 g, elution with ethyl acetate: cyclohexane, 1:9 (700 ml), 2:8 (1 1), 3:7 (1 1) 2:3 (1 1) and 1:1 (1 1)]. Diastereoisomer A obtained as a white solid (232 mg) was recrystallized in ethyl acetate/cyclohexane, m.p. 158° C., Rf=0.30 (silica gel, ethyl acetate:cyclohexane, 1:1). Diastereoisomer B was recovered as a white solid (250 mg) and recrystallized in ethyl acetate, m.p. 179-180° C., Rf=0.40 (silica gel, ethyl acetate:cyclohexane, 1:1).

reactant | R-(-)-2-phenylpropionic acid | 505 mg | C[C@H](C1=CC=CC=C1)C(=O)O | C9H10O2
reactant | hydroxybenzotriazole, hydrate | 530 mg | O.OC1=CC=CC=2NN=NC21
reactant | dicyclohexylcarbodiimide | 718 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | racemic trans-3-amino-1,2,3,4-tetrahydro-2-naphthalenol, hydrochloride | 723 mg | Cl.N[C@H]1[C@@H](CC2=CC=CC=C2C1)O
reactant | N-methylmorpholin | 438 mg | CN1CCOCC1 | C5H11NO
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Trans-N-[(2R)-2-phenylpropanoyl]-3-amino-1,2,3,4-tetrahydro-2-naphthalenol | 232 mg | C1(=CC=CC=C1)[C@H](C(=O)N[C@H]1[C@@H](CC2=CC=CC=C2C1)O)C | C19H21NO2
